data/oMe_Silver.jsonl
{"reaction_id": "NR-235_1-Cc1ccccc1_2-C_3-C(C)C_4-Br","level": "medium","name": "Smiles Rearrangement","reactants_smiles": ["Cc1ccccc1NC(=O)C(C)(C(C)C)Oc1ccc(Br)cc1","CC[O-]"],"products_smiles": ["Cc1ccccc1N(c1ccc(Br)cc1)C(=O)C(C)(C(C)C)O"],"conditions": "CCO","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Cc1ccccc1[N-]C(=O)C(C)(C(C)C)Oc1ccc(Br)cc1","step_weight": 0,"rationale": "Ethanol’s conjugate base deprotonates the amide nitrogen, increasing its nucleophilicity via negative charge delocalization onto the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH-]1C2(C=CC(Br)=C1)OC(C)(C(C)C)C(N2Cc1ccccc1)=O","step_weight": 0,"rationale": "The nitrogen anion attacks the electron-deficient aromatic ring ortho/para to the ether linkage, favored by resonance stabilization of the Meisenheimer complex."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "Cc1ccccc1N(c1ccc(Br)cc1)C(=O)C(C)(C(C)C)[O-]","step_weight": 0,"rationale": "The intermediate collapses, expelling the alkoxide leaving group to restore aromaticity, a strong thermodynamic driving force."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Cc1ccccc1N(c1ccc(Br)cc1)C(=O)C(C)(C(C)C)O","step_weight": 0,"rationale": "The alkoxide oxygen is protonated by solvent ethanol, yielding the neutral hydroxyacetamide product."}],"description": "Under basic ethanol conditions, the amide nitrogen is deprotonated to form a strong nucleophile. This anion attacks the electron-deficient aromatic ring intramolecularly, forming a Meisenheimer complex. Collapse of this intermediate expels the alkoxide, restoring aromaticity, and protonation yields the rearranged hydroxyacetamide."}
{"reaction_id": "NR-337_1-C_2-C1CCCCC1_3-[N+](=O)[O-]_4-Cl_5-Cl","level": "medium","name": "Rosenmund-von Braun Reaction","reactants_smiles": ["c1(I)c(C)c(C1CCCCC1)c([N+](=O)[O-])c(Cl)c1Cl","N#C[Cu]"],"products_smiles": ["c1(C#N)c(C)c(C1CCCCC1)c([N+](=O)[O-])c(Cl)c1Cl"],"conditions": "High temperature","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Cu](I)(C#N)c1c(C)c(C1CCCCC1)c([N+](=O)[O-])c(Cl)c1Cl","step_weight": 0,"rationale": "High temperature promotes oxidative addition of the aryl iodide to Cu(I), facilitated by the weak C–I bond and good leaving group ability of iodide, forming a higher oxidation state Cu(III) intermediate with CN ligand."},{"step": 2,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(C)c(C1CCCCC1)c([N+](=O)[O-])c(Cl)c1Cl","step_weight": 0,"rationale": "Reductive elimination from Cu(III) is favored by the strong bond formation between the aryl group and the nucleophilic CN, releasing stable Cu(I) and driving the reaction thermodynamically."}],"description": "In the Rosenmund–von Braun reaction, aryl iodide undergoes oxidative addition to a copper(I) cyanide species at high temperature, forming an aryl–Cu(III)–CN intermediate. Subsequent reductive elimination yields the aryl nitrile, driven by strong C–CN bond formation and thermodynamic stability."}
